US05599984
3,3'-(trimethylenedioxy)di-p-anisaldehyde (1.032 g), aminoguanidine hydrochloride (0.829 g), and aminoguanidine dihydrochloride (0.02 g) were heated in 95% methanol (10.5 mL) for 16 hr. Cooling and filtration gave 1.372 g of 3,3'-(trimethylenedioxy)di-p-anisaldehyde bis(amidinohydrazone) dihydrochloride, mp 233°-5° C.

reactant | 3,3'-(trimethylenedioxy)di-p-anisaldehyde | 1.032 g | O(CCCOC=1C=C(C=O)C=CC1OC)C=1C=C(C=O)C=CC1OC | C19H20O6
reactant | aminoguanidine hydrochloride | 0.829 g | C(=N)(N)NN.Cl
solvent | methanol | 10.5 mL | CO | CH4O
catalyst | aminoguanidine dihydrochloride | 0.02 g | Cl.Cl.NNC(=N)N
product | 3,3'-(trimethylenedioxy)di-p-anisaldehyde bis(amidinohydrazone) dihydrochloride | 1.372 g | Cl.Cl.C(N)(=N)NN=CC1=CC(=C(C=C1)OC)OCCCOC=1C=C(C=NNC(N)=N)C=CC1OC | InChI=1S/C21H28N8O4.2ClH/c1-30-16-6-4-14(12-26-28-20(22)23)10-18(16)32-8-3-9-33-19-11-15(5-7-17(19)31-2)13-27-29-21(24)25;;/h4-7,10-13H,3,8-9H2,1-2H3,(H4,22,23,28)(H4,24,25,29);2*1H
